US09303000B2
Synthesis of 3-(3-(methylsulfonyl)-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazole
In a 1-neck 250 mL round-bottomed flask, 3-(methylsulfonyl)-5-(trifluoromethyl)benzothioamide (4.0 g, 1.0 eq.) was dissolved in DMF (40 mL, 10 V) added hydrazine hydrate (1.60 g, 2.0 eq.) and stirred reaction mixture for 3 h. Then formic acid (20 mL, vol) was added and stirred for 1 h at the same temperature. Then temperature increased to 90° C. and maintained for 10-12 hrs. The progress of the reaction was followed by TLC analysis on silica gel with 10% methanol: dichloromethane as mobile phase and visualization with UV, SM Rf=0.30 and Product Rf=0.20. Reaction mixture was quenched into the ice-water slurry (300 mL) and extracted in the ethyl acetate (100 mL×3). Organic layer was washed with sodium bicarbonate solution (100×3 mL) followed by drying using anhydrous sodium sulphate. Organic layer was concentrated under reduced pressure to afford 3.0 g of crude compound. The resulting crude compound (4.0 g) was subjected to column purification. The crude reaction mixture was purified by column chromatography using silica 60/120 using methanol: dichloromethane as mobile phase. The column (5×10 cm) was packed in dichloromethane and started eluting in Methanol in gradient manner starting with fraction collection (25 mL fractions) from 3-5% methanol in dichloromethane. Compound started eluting with 3% methanol in dichloromethane. Fraction containing such TLC profile was collected together to obtain pure compound (3.0 g), Yield (73.6%).

reactant | 3-(methylsulfonyl)-5-(trifluoromethyl)benzothioamide | 4.0 g, 1.0 eq. | CS(=O)(=O)C=1C=C(C(N)=S)C=C(C1)C(F)(F)F | C9H8F3NO2S2
reactant | hydrazine hydrate | 1.60 g, 2.0 eq. | O.NN
reactant | formic acid | 20 mL | C(=O)O | CH2O2
reactant | methanol | CO | CH4O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(3-(methylsulfonyl)-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | 3.0 g | CS(=O)(=O)C=1C=C(C=C(C1)C(F)(F)F)C1=NNC=N1 | C10H8F3N3O2S
